US05576431
Distilled water was placed in a three-neck flask equipped with a reflux condenser and a dropping funnel and a crude product of the electrolytic fluorination of methyl piperidinoacetate was added through the dropping funnel while the three-neck flask was kept cooled. The resultant hydrolyzate was extracted with ether from the reaction mixture, dried with anhydrous sodium sulfate, and then distilled under a vacuum in the presence of a small amount of concentrated sulfuric acid to obtain perfluoropiperidinoacetic acid (bp: 120° C./121 mmHg). This perfluoropiperidinoacetic acid was suspended in distilled water. The suspension was kept agitated by the use of a magnetic stirrer and an aqueous potassium hydroxide solution was added to the agitated suspension until pH 10. The resultant reaction mixture was deprived of water and low-boiling fractions by the use of an evaporator and then dried for one day with a vacuum pump to obtain white solid potassium perfluoropiperidino-acetate.

reactant | perfluoropiperidinoacetic acid | FC(C(=O)O)(N1C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)(F)F)F | C7HF12NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | potassium perfluoropiperidino-acetate | FC(C(=O)[O-])(N1C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)(F)F)F.[K+] | InChI=1S/C7HF12NO2.K/c8-2(9,1(21)22)20-6(16,17)4(12,13)3(10,11)5(14,15)7(20,18)19;/h(H,21,22);/q;+1/p-1
